US07635715B2
Step F: Preparation of N-((7-Trifluoromethyl-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine
1,1-Dimethylethyl N-((7-trifluoromethyl-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate (380 mg, 919 μmol) was stirred in TFA (2 mL, 26924 μmol) at room temperature for 30 minutes. The reaction mixture was partitioned between water and EtOAc. The organic layer was separated, dried (MgSO4), and concentrated in vacuo to give a yellow solid. The solid was then washed with water, ether, and EtOAc to give the desired product as an off-white solid (100 mg). MS (m/e)=358.1 (M+H)+. Calculated for C16H14F3NO5 357.08.

reactant | 1,1-Dimethylethyl N-((7-trifluoromethyl-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 919 μmol, 380 mg | FC(C1=CC=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O)(F)F | C20H22F3NO5
reactant | TFA | 26924 μmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((7-Trifluoromethyl-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine | 100 mg | FC(C1=CC=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)NCC(=O)O)O)(F)F | C16H14F3NO5
